* C:\Users\Florian\Documents\GitHub\SCuSA\sim\Amplifier\Amplifier.asc
XU1 N002 N003 0 out 3V3 ref N001 AD8418A
V1 3V3 0 3.3
R1 N001 N002 50m
I1 0 N001 PULSE(-1.8 3 0 0.1m 0.1m 1m 2m)
V2 ref 0 0
V3 N002 0 1
V4 N003 0 -2
.tran 10m
* Top plot pane shows error.
.lib ADI1.lib
.backanno
.end
